US09260425B2
To a 100 mL of round bottom flask was added 5-bromo-3-(2-fluorophenyl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine (150 mg, 0.40 mmol), 1-(tetrahydro-2H-pyran-2-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-imidazole (222 mg, 0.80 mmol), Pd(PPh3)4(33 mg, 0.04 mmol), CsF (152 mg, 1 mmol), CuI (8 mg, 0.04 mmol) and DMF (6 mL). The reaction mixture was heated at 90° C. under nitrogen for overnight. The resulting mixture was poured into 50 mL of water and extracted with ethyl acetate (50 mL×3). The combined organic layers were washed with brine, dried over anhydrous Na2SO4, filtered and concentrated. The residue was purified via flash chromatography eluting with 5% to 10% CH3OH in CH2Cl2 to afford 3-(2-fluorophenyl)-1-(tetrahydro-2H-pyran-2-yl)-5-(1-(tetrahydro-2H-pyran-2-yl)-1H-imidazol-5-yl)-1H-pyrazolo[3,4-c]pyridine as a brown oil (100 mg, 84%). ESI MS m/z=448 (M+1).

reactant | 5-bromo-3-(2-fluorophenyl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine | 0.40 mmol, 150 mg | BrC=1C=C2C(=CN1)N(N=C2C2=C(C=CC=C2)F)C2OCCCC2 | C17H15BrFN3O
reactant | 1-(tetrahydro-2H-pyran-2-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-imidazole | 0.80 mmol, 222 mg | O1C(CCCC1)N1C=NC=C1B1OC(C(O1)(C)C)(C)C | C14H23BN2O3
reactant | CsF | 1 mmol, 152 mg | [F-].[Cs+]
reactant | DMF | 6 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 0.04 mmol, 33 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | CuI | 0.04 mmol, 8 mg | [Cu]I
solvent | water | 50 mL | O | H2O
product | 3-(2-fluorophenyl)-1-(tetrahydro-2H-pyran-2-yl)-5-(1-(tetrahydro-2H-pyran-2-yl)-1H-imidazol-5-yl)-1H-pyrazolo[3,4-c]pyridine | 100 mg, 84% | FC1=C(C=CC=C1)C1=NN(C2=CN=C(C=C21)C2=CN=CN2C2OCCCC2)C2OCCCC2 | C25H26FN5O2
